US04055561
Following essentially the same procedure described in Example IV above and substituting 4-(α-aminoethyl)1,1-dimethyl-6-tert.-butylindane for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-[1-(6-tert.-butyl-1,1-dimethyl-4-indanyl)ethylimino]hexahydro-1H-azepine hydrochloride, having a M.P. of 257°-8° C. (dec.)

reactant | 4-(α-aminoethyl)1,1-dimethyl-6-tert.-butylindane | NC(C)C1=C2CCC(C2=CC(=C1)C(C)(C)C)(C)C | C17H27N
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-[1-(6-tert.-butyl-1,1-dimethyl-4-indanyl)ethylimino]hexahydro-1H-azepine hydrochloride | Cl.C(C)(C)(C)C1=CC(=C2CCC(C2=C1)(C)C)C(C)N=C1NCCCCC1 | InChI=1S/C23H36N2.ClH/c1-16(25-21-10-8-7-9-13-24-21)19-14-17(22(2,3)4)15-20-18(19)11-12-23(20,5)6;/h14-16H,7-13H2,1-6H3,(H,24,25);1H
